US04800228
6-Amino-2-(4-methoxybenzyl)-3-methyl-5-propyl-4,7-benzofurandione
To a solution of 2-(4-methoxybenzyl)-3-methyl-5-propyl-4,7-benzofurandione (from Preparation 28) (295 mg, 0.91 mmol) in MeOH (3 mL) were added NH4Cl (109 mg) and NaN3 (130 mg). The mixture was heated to reflux for 4 hours and the solvent was then removed in vacuo. Water was added and the product was extracted into CH2Cl2 and chromatographed on silica gel (15% EtOAc/hexane) to give the title compound.

reactant | 2-(4-methoxybenzyl)-3-methyl-5-propyl-4,7-benzofurandione | 0.91 mmol, 295 mg | COC1=CC=C(CC=2OC3=C(C2C)C(C(=CC3=O)CCC)=O)C=C1 | C20H20O4
reactant | NH4Cl | 109 mg | [NH4+].[Cl-]
reactant | NaN3 | 130 mg | [N-]=[N+]=[N-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | 6-Amino-2-(4-methoxybenzyl)-3-methyl-5-propyl-4,7-benzofurandione | NC=1C(C2=C(C(=C(O2)CC2=CC=C(C=C2)OC)C)C(C1CCC)=O)=O | C20H21NO4
